US08258306B2
To a mixture of 2-methylbenzophenone (2.0 g, 10.2 mmol) and N-boc-3-pyrrolidone (1.89 g, 10.2 mmol) in THF was added zinc powder (3.3 g, 59 mmol) at 10-15° C. and stirred for 15 min. To the reaction mixture was added TiCl4 (4.76 g, 25 mmol) and the contents were brought to 60° C. and stirred for 8 h. The reaction mixture was allowed to cool to room temperature, diluted HCl was added and extracted with EtOAc. The organic layer was washed with aqueous sodium potassium tartarate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the crude product which was washed with n-hexane to afford 1.8 g of (Z)-3-(phenyl(m-tolyl)methylene)pyrrolidine.

reactant | 2-methylbenzophenone | 10.2 mmol, 2.0 g | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C14H12O
reactant | N-boc-3-pyrrolidone | 10.2 mmol, 1.89 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | HCl | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
catalyst | zinc | 59 mmol, 3.3 g | [Zn] | Zn
catalyst | TiCl4 | 25 mmol, 4.76 g | Cl[Ti](Cl)(Cl)Cl
product | (Z)-3-(phenyl(m-tolyl)methylene)pyrrolidine | 1.8 g | C1(=CC=CC=C1)/C(=C\1/CNCC1)/C=1C=C(C=CC1)C | C18H19N
